US08378104B2
Intermediate 30: 4-[4-(7-amino-2-chloro-furo[2,3-c]pyridin-4-yl)-pyrazol-1-yl]-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 2-chloro-4-iodofuro[2,3-c]pyridin-7-amine (7.7 g, 26.2 mmol) and tert-butyl 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate (10.52 g, 27.7 mmol) in 1,2-dimethoxyethane (300 mL) and water (100 mL) was sparged with N2 for 15 min, then treated with K2CO3 and Pd(PPh3)4. After sparging again with N2 for 5 min, the mixture was heated at reflux 4-6 h. The 1,2-dimethoxyethane was removed in vacuo, water was added and the mixture extracted with DCM. The combined DCM extracts were dried, filtered and concentrated in vacuo. The residue was purified by flash chromatography using triethylamine-coated silica (2% MeOH:DCM) to afford 10 g (80%) of the title compound. 1H NMR (400 MHz, CDCl3): δ 1.44-1.55 (m, 9H) 1.90-2.12 (m, 2H) 2.21 (d, J=10.61 Hz, 2H) 2.84-3.03 (m, 2H) 4.22-4.44 (m, 3H) 5.26 (br s, 2H) 6.77 (s, 1H) 7.65 (s, 1H) 7.73-7.79 (m, 1H) 7.92 (s, 1H).

reactant | 2-chloro-4-iodofuro[2,3-c]pyridin-7-amine | 26.2 mmol, 7.7 g | ClC1=CC=2C(=C(N=CC2I)N)O1 | C7H4ClIN2O
reactant | tert-butyl 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate | 27.7 mmol, 10.52 g | CC1(OB(OC1(C)C)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C19H32BN3O4
solvent | 1,2-dimethoxyethane | 300 mL | COCCOC | C4H10O2
solvent | water | 100 mL | O | H2O
product | 4-[4-(7-amino-2-chloro-furo[2,3-c]pyridin-4-yl)-pyrazol-1-yl]-piperidine-1-carboxylic acid tert-butyl ester | 10 g, 80% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)C1=C2C(=C(N=C1)N)OC(=C2)Cl | C20H24ClN5O3
